US03981892
8-Oxatricyclo[5.3.1.02,6 ]undecan-9-on
18 g of a 50 % peracetic acid solution in acetic acid containing 1 g of sodium acetate were added to a stirred mixture of 15 g of tricyclo[5.2.1.02,6 ]decane-8-one (which can be purchased from Ruhrchemie, Bruchstrasse, D-42 Oberhausen Holten, West Germany) and 9 g of anhydrous sodium acetate in 60 g of dichloromethane. The temperature of the reaction mixture was kept at 20°-25° by external cooling by means of a ice-water bath during the whole addition, then it was kept at this value during 48 hours while stirring.

reactant | peracetic acid | C(C)(=O)OO | C2H4O3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | tricyclo[5.2.1.02,6 ]decane-8-one | 15 g | C12C3CCCC3C(C(C1)=O)C2 | C10H14O
reactant | sodium acetate | 9 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 1 g | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 60 g | ClCCl | CH2Cl2
product | 8-Oxatricyclo[5.3.1.02,6 ]undecan-9-on | C12C3CCCC3C(OC(C1)=O)C2 | C10H14O2
